US05536750
Step B: 2-(t-Butyloxycarbonyl)amino-2-methyl-5-hydroxypentanoic acid
2-Amino-2-methyl-5-hydroxypentanoic acid (5.69 g, 0.031 mol) was dissolved in 1,2-dimethoxy-ethane (DME) (60 mL)--H2O (30 mL) with stirring at 0° C. The pH of the soln was adjusted to 9-10 with 1N NaOH soln, then di-t-butyl-dicarbonate (7.45 g, 0.034 mol) in DME (60mL)--H2O (30 mL) was added dropwise while maintaining the mixture at a pH of 9-10 by concomitant addition of 1N NaOH soln. The reaction mixture was stirred at ambient temperature for 48 h with periodic addition of 1N NaOH to maintain the basic pH, then concentrated and partitioned between ether and H2O. The aq layer was acidified with 10% citric acid soln, and extracted with EtOAC (3×50 mL). The organic layers were combined, washed with brine, and dried (Na2SO4). Filtration and concentration to dryness gave 3.0 g of crude title compound.

reactant | 2-Amino-2-methyl-5-hydroxypentanoic acid | 0.031 mol, 5.69 g | NC(C(=O)O)(CCCO)C | C6H13NO3
reactant | H2O | 30 mL | O | H2O
reactant | NaOH | 1N | [OH-].[Na+]
reactant | di-t-butyl-dicarbonate | 0.034 mol, 7.45 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | 30 mL | O | H2O
reactant | NaOH | 1N | [OH-].[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | 1,2-dimethoxy-ethane | 60 mL | COCCOC | C4H10O2
solvent | DME | 60mL | COCCOC | C4H10O2
product | 2-(t-Butyloxycarbonyl)amino-2-methyl-5-hydroxypentanoic acid | 3.0 g | C(C)(C)(C)OC(=O)NC(C(=O)O)(CCCO)C | C11H21NO5
